US09278951B2
Synthesis of 1-(4-(carboxymethoxy)benzyl)-4,5-dichloro-3-(naphthalen-1-ylmethyl)-1H-imidazol-3-ium bromide
4,5-dichloroimidazole (1.00 g, 7.36 mmol) was dissolved in acetonitrile. Potassium hydroxide (0.828 g, 14.72 mmol) was added to the solution and allowed to reflux for 30 min. 1 equivalent of 2-(4-(bromomethyl)phenoxy)acetic acid (1.80 g, 7.36 mmol) was added to the solution and refluxed for 5 h. Solution was filtered to remove the KBr precipitate and placed back onto reflux. An equivalent of 1-(bromomethyl)naphthalene (1.63 g, 7.36 mmol) was added to solution and refluxed for 2.5 h. The solution was neutralized with 6M HBr, volatiles removed in vacuo, and the resulting product will be collected and analyzed.

reactant | 4,5-dichloroimidazole | 7.36 mmol, 1.00 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 14.72 mmol, 0.828 g | [OH-].[K+]
reactant | 2-(4-(bromomethyl)phenoxy)acetic acid | 7.36 mmol, 1.80 g, 1 equivalent | BrCC1=CC=C(OCC(=O)O)C=C1 | C9H9BrO3
reactant | 1-(bromomethyl)naphthalene | 7.36 mmol, 1.63 g | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
reactant | HBr | 6M | Br | BrH
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(4-(carboxymethoxy)benzyl)-4,5-dichloro-3-(naphthalen-1-ylmethyl)-1H-imidazol-3-ium bromide | [Br-].C(=O)(O)COC1=CC=C(CN2C=[N+](C(=C2Cl)Cl)CC2=CC=CC3=CC=CC=C23)C=C1 | InChI=1S/C23H18Cl2N2O3.BrH/c24-22-23(25)27(13-18-6-3-5-17-4-1-2-7-20(17)18)15-26(22)12-16-8-10-19(11-9-16)30-14-21(28)29;/h1-11,15H,12-14H2;1H
